US07754757B2
(2S,4S)-1-[[N-(4-Carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (30.0 mg) was dissolved in N,N-dimethylformamide (1.0 mL) and cesium carbonate (45.3 mg) was added to the solution. Benzyl bromide (17.5 mg) in N,N-dimethylformamide (0.5 mL) was then added while the mixture was chilled in an ice bath and the mixture was stirred for 1 hour. Subsequently, water was added and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluant: dichloromethane:methanol=10:1) to give (2S,4S)-1-[[N-(4-benzyloxycarbonyl bicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (30.6 mg).

reactant | (2S,4S)-1-[[N-(4-Carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 30.0 mg | C(=O)(O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C16H22FN3O3
reactant | cesium carbonate | 45.3 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Benzyl bromide | 17.5 mg | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | (2S,4S)-1-[[N-(4-benzyloxycarbonyl bicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 30.6 mg | C(C1=CC=CC=C1)OC(=O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C23H28FN3O3
